US07119102B2
2,6-Dichloro-4-trifluoromethyl-nicotinonitrile (277 mg, 1.15 mmol) was dissolved into 10 mL of absolute EtOH and cooled in a wet ice bath. To this was added DIPEA (1.74 mL, 10 mmol) and 1-(1-methyl-1H-benzoimidazol-2-yl)-2-(piperidin-4-ylamino)-ethanol dihydrochloride (400 mg, 1.15 mmol). The mixture was stirred for 2 h. LC-MS anlysis indicated formation of the product. The reaction mixture was concentrated on a rotary evaporator and the residue was dissolved in CH2Cl2 and applied to a SiO2 column and purified (0–10% MeOH/CH2Cl2) to give an oil, still contaminated with DIPEA. Trituration with EtOAc gave 344 mg, 62.4% of 6′-chloro4-[2-hydroxy-2-(1-methyl-1H-benzoimidazol-2-yl)-ethylamino]-4′-trifluoromethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carbonitrile.

reactant | 2,6-Dichloro-4-trifluoromethyl-nicotinonitrile | 1.15 mmol, 277 mg | ClC1=C(C#N)C(=CC(=N1)Cl)C(F)(F)F | C7HCl2F3N2
reactant | EtOH | 10 mL | CCO | C2H6O
reactant | DIPEA | 10 mmol, 1.74 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(1-methyl-1H-benzoimidazol-2-yl)-2-(piperidin-4-ylamino)-ethanol dihydrochloride | 1.15 mmol, 400 mg | Cl.Cl.CN1C(=NC2=C1C=CC=C2)C(CNC2CCNCC2)O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6′-chloro4-[2-hydroxy-2-(1-methyl-1H-benzoimidazol-2-yl)-ethylamino]-4′-trifluoromethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carbonitrile | 344 mg, 62.4% | ClC1=C(C(=CC(=N1)N1CCC(CC1)NCC(C1=NC2=C(N1C)C=CC=C2)O)C(F)(F)F)C#N | C22H22ClF3N6O
